US07144913B2
Step 1: 2-bromo-4-iodo-1-methylbenzene
To a vigorously stirred mixture of 3-bromo-4-methylaniline (40 g, 215 mmol), sulfuric acid (360 mL) and H2O (900 mL) at 0° C. was added dropwise a NaNO2 solution (16.6 g, 240 mmol in 80 mL of H2O). The mixture was stirred at 0° C. for 1 hour and a solution of potassium iodide (64 g, 387 mmol in 160 mL of H2O) was added. The reaction was stirred for 8 hours at r.t. The aqueous layer was extracted with Et2O and the combined organic layers were washed with a 10% aqueous solution of Na2S2O3, dried over Na2SO4 and concentrated. The residue was filtered through a silica gel pad eluted with 10% EtOAc/hexane and concentrated to give 60 g of the title compound as a reddish syrup used as such.

reactant | 3-bromo-4-methylaniline | 215 mmol, 40 g | BrC=1C=C(N)C=CC1C | C7H8BrN
reactant | sulfuric acid | 360 mL | S(O)(O)(=O)=O | H2O4S
reactant | NaNO2 | 240 mmol, 80 mL, 16.6 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 387 mmol, 160 mL, 64 g | [I-].[K+]
solvent | H2O | 900 mL | O | H2O
product | 2-bromo-4-iodo-1-methylbenzene | 60 g | BrC1=C(C=CC(=C1)I)C | C7H6BrI
